US09024032B2
To a solution of 3-(benzyloxy)-1-(4-butylphenyl)pyridin-4(1H)-one (705 mg, 2.1 mmol) in AcOH (21 mL) was added N-bromosuccinamide (414 mg, 2.3 mmol) and the reaction mixture was stirred at room temperature. After 1 h, the mixture was concentrated under reduced pressure and purified by flash chromatography (50 g SiO2, 0-70% ethyl acetate/hexanes) to provide 3-(benzyloxy)-5-bromo-1-(4-butylphenyl)pyridin-4(1H)-one. LC/MS (M+H)+ 412/414.

reactant | 3-(benzyloxy)-1-(4-butylphenyl)pyridin-4(1H)-one | 2.1 mmol, 705 mg | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C1=CC=C(C=C1)CCCC | C22H23NO2
reactant | N-bromosuccinamide | 2.3 mmol, 414 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | AcOH | 21 mL | CC(=O)O | C2H4O2
product | 3-(benzyloxy)-5-bromo-1-(4-butylphenyl)pyridin-4(1H)-one | C(C1=CC=CC=C1)OC1=CN(C=C(C1=O)Br)C1=CC=C(C=C1)CCCC | C22H22BrNO2
